US06919334B2
Toluene-4-sulfonic acid 2-methyl-3,4-dihydro-5-oxa-1,2a-diaza-acenaphthylen-3-ylmethyl ester
(2-Methyl-3,4-dihydro-5-oxa-1,2a-diaza-acenaphthylen-3-yl)-methanol (2.0 g, 9.8 mmole) was dissolved in pyridine (35 mL), p-toluenesulfonyl chloride (4.0 g, 20.9 mmole) was added and the resulting mixture was stirred at room temperature overnight. The solvent was removed and the residue partitioned between 400 mL each of methylene chloride and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuum. The crude residue was column chromatographed on silica gel using methylene chloride to elute 2.6 g of the title compound. 1H NMR (DMSO-d6): δ 7.60 (d, 1H); 7.20 (m, 3H); 7.05 (t, 1H); 6.65 (d, 1H); 4.75 (d, 1H); 4.57 (dd, 1H); 4.10 (m, 3H); 2.58 (s, 3H); 2.47 (s, 3H).

reactant | (2-Methyl-3,4-dihydro-5-oxa-1,2a-diaza-acenaphthylen-3-yl)-methanol | 9.8 mmole, 2.0 g | CC1=NC=2C=CC=C3OCC(N1C23)CO | C11H12N2O2
reactant | p-toluenesulfonyl chloride | 20.9 mmole, 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | Toluene-4-sulfonic acid 2-methyl-3,4-dihydro-5-oxa-1,2a-diaza-acenaphthylen-3-ylmethyl ester | CC1=NC=2C=CC=C3OCC(N1C23)COS(=O)(=O)C2=CC=C(C=C2)C | C18H18N2O4S
